data/oMe_Silver.jsonl
{"reaction_id": "NR-148_1-CCCC(C)C_2-CCCC(C)C_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-C_5-c1ccccc1_6-C","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(CCCC(C)C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CCCC(C)C)O[Si](C)(C)(C)","C(=O)(c1ccccc1)(C)"],"products_smiles": ["CCCC(C)CC(=O)C(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(c1ccccc1)(C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](C)(C)(C))(c1ccccc1)(C)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCCC(C)CC(=O)C(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O[Si](C)(C)(C))(c1ccccc1)(C)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCC(C)CC(=O)C(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(c1ccccc1)(C)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
{"reaction_id": "NR-122_1-[N+](=O)[O-]_2-S(=O)(=O)c1ccccc1_3-C1CCCCC1_4-c1ccc(C(F)(F)F)cc1","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(C1CCCCC1)c1ccc(C(F)(F)F)cc1","C([N+](=O)[O-])S(=O)(=O)c1ccccc1"],"products_smiles": ["C(=C([N+](=O)[O-])S(=O)(=O)c1ccccc1)(C1CCCCC1)c1ccc(C(F)(F)F)cc1"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(C1CCCCC1)c1ccc(C(F)(F)F)cc1","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-]([N+](=O)[O-])S(=O)(=O)c1ccccc1","rationale": "The basic nitrogen abstracts an acidic α-proton from [N+](=O)[O-]–S(=O)(=O)c1ccccc1 methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(C1CCCCC1)c1ccc(C(F)(F)F)cc1)([N+](=O)[O-])S(=O)(=O)c1ccccc1","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(C1CCCCC1)c1ccc(C(F)(F)F)cc1)([N+](=O)[O-])S(=O)(=O)c1ccccc1","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C([N+](=O)[O-])S(=O)(=O)c1ccccc1)(C1CCCCC1)c1ccc(C(F)(F)F)cc1","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
